US05187160
A solution of 7β-amino-3-[3-amino-2-(2-hydroxyethyl)-1-pyrazolio]methyl-3-cephem-4-carboxylate hydrochloride. dihydrate (1.5 g) in a mixture of water (15 ml) and tetrahydrofuran (30 ml) was adjusted to pH 7 with saturated sodium bicarbonate aqueous solution and 2-(2-aminothiazol-4-yl)-2-ethoxyiminoacetic acid (syn isomer) activated by 1-hydroxy-1H-benzotriazole (2.22 g) was added thereto at room temperature. The mixture was stirred for 5 hours at 30° C. maintaining pH 7 with addition of 20% potassium carbonate aqueous solution. To the reaction mixture was added ethyl acetate (30 ml) and the separated aqueous layer was washed with ethyl acetate (20 ml×2). The aqueous solution was adjusted to pH 4 with 1N-hydrochloric acid and washed with ethyl acetate (20 ml×3). The aqueous solution was adjusted to pH 2 with addition of 1N hydrochloric acid and subjected to column chromatography on "Diaion HP-20" (60 ml) using aqueous isopropyl alcohol, as an eluent. Fractions containing the object compound were combined and evaporated and lyophilized to give 7β-[2-(2-aminothiazol-4-yl)-2-ethoxyiminoacetamido ]-3-[3-amino-2-(2-hydroxyethyl)-1-pyrazolio]methyl-3-cephem-4-carboxylate (syn isomer) (1.30 g).

reactant | 7β-amino-3-[3-amino-2-(2-hydroxyethyl)-1-pyrazolio]methyl-3-cephem-4-carboxylate hydrochloride | Cl.N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C(=CC2)N)CCO)C(=O)[O-])C1=O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | 2-(2-aminothiazol-4-yl)-2-ethoxyiminoacetic acid | NC=1SC=C(N1)C(C(=O)O)=NOCC | C7H9N3O3S
reactant | 1-hydroxy-1H-benzotriazole | 2.22 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | 15 ml | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 7β-[2-(2-aminothiazol-4-yl)-2-ethoxyiminoacetamido ]-3-[3-amino-2-(2-hydroxyethyl)-1-pyrazolio]methyl-3-cephem-4-carboxylate | 1.30 g | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C(=CC2)N)CCO)C(=O)[O-])C1=O)=NOCC | C20H24N8O6S2
